US05240935
N-(Phenylmethyl)-4-isopropylpyridinium chloride from 4-isopropylpyridine (129 mL, 1.0 mol), isopropanol (500 mL) and benzyl chloride (121 mL, 1.05 mol). The product was then dissolved in acetone (250 mL) and treated with sodium iodide. A precipitate formed which was collected by filtration to afford 214.6 g (87%) of N-(phenylmethyl)-4-isopropylpyridinium iodide as white crystals.

reactant | N-(Phenylmethyl)-4-isopropylpyridinium chloride | [Cl-].C1(=CC=CC=C1)C[N+]1=CC=C(C=C1)C(C)C
reactant | 4-isopropylpyridine | 1.0 mol, 129 mL | C(C)(C)C1=CC=NC=C1 | C8H11N
reactant | benzyl chloride | 1.05 mol, 121 mL | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | sodium iodide | [I-].[Na+]
solvent | acetone | 250 mL | CC(=O)C | C3H6O
solvent | isopropanol | 500 mL | C(C)(C)O | C3H8O
product | N-(phenylmethyl)-4-isopropylpyridinium iodide | 214.6 g, 87% | [I-].C1(=CC=CC=C1)C[N+]1=CC=C(C=C1)C(C)C | InChI=1S/C15H18N.HI/c1-13(2)15-8-10-16(11-9-15)12-14-6-4-3-5-7-14;/h3-11,13H,12H2,1-2H3;1H/q+1;/p-1
